US06410584B1
6-(methoxycarbonyl)-3-methylindole
Methyl 4-ethyl-3-nitrobenzoate (5.0 g), which had been prepared through nitration followed by methyl-esterification of 4-ethylbenzoic acid, is dissolved in N,N-dimethylformamide (50 ml), to which is added N,N-dimethylformamide dimethyl acetal (8.45 g), and stirred under heat at 130° C. for 3 hours. The reaction mixture is concentrated under reduced pressure, and the resulting red oily residue is dissolved in methanol (50 ml), to which is added palladium-carbon (5%, 0.400 g), and stirred in a hydrogen atmosphere at room temperature for 2.5 hours. Then, this is further stirred at 50° C. for 2 hours and thereafter at room temperature for 3 days. The catalyst is removed through filtration, and the filtrate is concentrated under reduced pressure. The resulting residue is recrystallized from t-butyl methyl ether to obtain a pale yellow crystal of the intended product (2.4 g).

reactant | Methyl 4-ethyl-3-nitrobenzoate | 5.0 g | C(C)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C10H11NO4
reactant | 4-ethylbenzoic acid | C(C)C1=CC=C(C(=O)O)C=C1 | C9H10O2
reactant | N,N-dimethylformamide dimethyl acetal | 8.45 g | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-(methoxycarbonyl)-3-methylindole | 2.4 g | COC(=O)C1=CC=C2C(=CNC2=C1)C | C11H11NO2
